US04133961
The process of claim 1 wherein methyl 3,3-dimethyl-2-dimethylaminocyclobutanecarboxylate is reacted with acetic anhydride to produce 6-carbomethoxy-4,4-dimethyl-2-hexenoic acid.

reactant | methyl 3,3-dimethyl-2-dimethylaminocyclobutanecarboxylate | CC1(C(C(C1)C(=O)OC)N(C)C)C | C10H19NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 6-carbomethoxy-4,4-dimethyl-2-hexenoic acid | C(=O)(OC)CCC(C=CC(=O)O)(C)C | C10H16O4
